US05998334
Into a 200 ml autoclave, 1.59 g of 4-iodo-3-methylthiobenzotrifluoride prepared in accordance with the following Preparation Example 10, 1.38 g of 3-cyclopropyl-5-hydroxy-1-methylpyrazole (after-mentioned Intermediate No. 1a-1), 0.5 g of triethylamine, 3.1 g of potassium carbonate, 0.22 g of palladium (II) bis-triphenylphosphine) dichloride and 40 ml of dioxane were put and sealed, and the interior of the autoclave was flushed with carbon monoxide (pressure: 65 kg/cm2), followed by a reaction at 140° C. for 8 hours. After completion of the reaction, the solvent was distilled off, and the residue was dissolved in water, and then insoluble matters were filtered off. The filtrate was washed with dichloromethane. The washed product was acidified (pH=1) with concentrated hydrochloric acid and extracted with dichloromethane. The obtained extract solution was dried over anhydrous sodium sulfate, and the solvent was distilled off to obtain 1.59 g of 3-cyclopropyl-1-methyl-4-(2-methylthio-4-trifluoromethylbenzoyl)-5-hydroxypyrazole (after-mentioned Compound No. a-82) as a reddish brown solid.

reactant | 4-iodo-3-methylthiobenzotrifluoride | 1.59 g | IC1=C(C=C(C=C1)C(F)(F)F)SC | C8H6F3IS
reactant | 3-cyclopropyl-5-hydroxy-1-methylpyrazole | 1.38 g | C1(CC1)C1=NN(C(=C1)O)C | C7H10N2O
reactant | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 3.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 3-cyclopropyl-1-methyl-4-(2-methylthio-4-trifluoromethylbenzoyl)-5-hydroxypyrazole | 1.59 g | C1(CC1)C1=NN(C(=C1C(C1=C(C=C(C=C1)C(F)(F)F)SC)=O)O)C | C16H15F3N2O2S
